* Auto-generated simulation netlist for case: ccp_gec_level3_topology_and_load_choice
.param C1=3.73331282414e-10
.param C2=1.41145201881e-09
.param Ce=3.23556681424e-11
.param Ch=2.34473218467e-11
.param Csh=1.76279029304e-10
.param L1=3.16670847555e-07
.param Lh=2.91623782045e-06
.param Lp=7.61727701283e-07
.param Rp=7.75647062312
.param Vsrc_amp=594.852250497
.param ne=5.54549119164e+14
.param nu_m=143683562.053

* Sources
Vsrc src 0 SIN(0 594.852250497 13560000 0 0 0)

* Circuit
L1 src electrode {L1}
C1 electrode 0 {C1}

* Optional load
* load model: electrode_stray
.subckt load_model p n
Rleak p n 1e+12
Celectrode p n 3.23556681424e-11
.ends load_model
Xload electrode 0 load_model

.save v(electrode) i(Vsrc)
.control
tran 2e-10 7.3746e-07
wrdata waveform.csv time v(electrode) i(Vsrc)
quit
.endc
.end
